US04469699
C-5. 6-Methyl-5-(2-methyl-4-thiazolyl)-2(1H)-pyridinone--To a 100 ml portion of boiling diethyl phthalate was added 20 g of 1,2-dihydro-6-methyl-5-(2-methyl-4-thiazolyl)-2-oxo-3-pyridinecarboxylic acid and the resulting dark solution was heated for about 15 minutes and then cooled to about 150° C., treated with decolorizing charcoal and filtered. The filtrate was diluted with 350 ml of n-hexane (no solid precipitated) and then extracted with 300 ml of 3% aqueous sodium hydroxide solution. The aqueous phase was separated and acidified with acetic acid, yielding no precipitate. The acidic solution was concentrated on a rotary evaporator to a volume of about 100 ml and allowed to stand at room temperature overnight. The resulting crystalline yellow solid that had separated was collected, washed with water, dried and then recrystallized from isopropyl alcohol-ether to produce 6.8 g of 6-methyl-5-(2-methyl-4-thiazolyl)-2-(1H)-pyridinone, m.p. 188°-190° C.

reactant | diethyl phthalate | C(C=1C(C(=O)OCC)=CC=CC1)(=O)OCC | C12H14O4
reactant | 1,2-dihydro-6-methyl-5-(2-methyl-4-thiazolyl)-2-oxo-3-pyridinecarboxylic acid | 20 g | CC1=C(C=C(C(N1)=O)C(=O)O)C=1N=C(SC1)C | C11H10N2O3S
reactant | charcoal | C | CH4
product | 6-methyl-5-(2-methyl-4-thiazolyl)-2-(1H)-pyridinone | 6.8 g | CC1=C(C=CC(N1)=O)C=1N=C(SC1)C | C10H10N2OS
